US07968581B2
Step 2: 2-hydroxy-1-(3-methylphenyl)ethanone
A solution of 2-bromo-1-(3-methylphenyl)ethanone (1 g) in acetonitrile (2.5 mL) and water (13 mL) is treated under microwave irradiation (125° C., 50 min) The same experiment is repeated three times. All the vials are collected, extracted with DCM, dried over magnesium sulfate and concentrated under vacuum to give the desired compound.

reactant | 2-bromo-1-(3-methylphenyl)ethanone | 1 g | BrCC(=O)C1=CC(=CC=C1)C | C9H9BrO
reactant | water | 13 mL | O | H2O
solvent | acetonitrile | 2.5 mL | C(C)#N | C2H3N
product | 2-hydroxy-1-(3-methylphenyl)ethanone | OCC(=O)C1=CC(=CC=C1)C | C9H10O2
